US04249937
2-(1-allyloxyaminobutylidene)-5-(2-methylthioethyl)-cyclohexane-1,3-dione (Compound No. 18)
2.6 g of 2- butyryl-5-(2-methylthioethyl)-cyclohexane-1,3-dione was allowed to react with 0.8 g of allyloxyamine at room temperature for 10 hours in 20 ml of ethanol. After completion of the reaction, the resulting reaction solution was treated as in Example 1 to obtain 3 g of the desired compound as colorless oily material. nD27 1.5402

reactant | 2- butyryl-5-(2-methylthioethyl)-cyclohexane-1,3-dione | 2.6 g | C(CCC)(=O)C1C(CC(CC1=O)CCSC)=O | C13H20O3S
reactant | allyloxyamine | 0.8 g | C(C=C)ON | C3H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(1-allyloxyaminobutylidene)-5-(2-methylthioethyl)-cyclohexane-1,3-dione | 3 g | C(C=C)ONC(CCC)=C1C(CC(CC1=O)CCSC)=O | C16H25NO3S
